US05210290
4-[N-(4-Fluoro-3-trifluoromethylphenyl)sulfamoyl]benzoic Acid
10 g (55.8 mmol) of 4-fluoro-3-trifluoromethylaniline and 6 ml (74.3 mmol) of pyridine are dissolved in 250 ml of dichloromethane. The mixture is cooled with ice water and, under agitation and exclusion of moisture, 12.7 g (57.6 mmol) of 4-chlorosulfonylbenzoic acid is added in incremental portions. The mixture is stirred overnight; the slurry is combined with 75 ml of 2N sodium hydroxide solution, and the organic phase is separated. The alkaline solution is washed with dichloromethane and then adjusted to pH 2 with hydrochloric acid. The product is taken up in ethyl acetate. The solution is washed with water, dried over sodium sulfate and concentrated to dryness. The title compounds melts at 243-°245° C. after crystallization from ethanol.

reactant | 4-fluoro-3-trifluoromethylaniline | 55.8 mmol, 10 g | FC1=C(C=C(N)C=C1)C(F)(F)F | C7H5F4N
reactant | pyridine | 74.3 mmol, 6 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorosulfonylbenzoic acid | 57.6 mmol, 12.7 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | sodium hydroxide | 2N, 75 ml | [OH-].[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-[N-(4-Fluoro-3-trifluoromethylphenyl)sulfamoyl]benzoic Acid | FC1=C(C=C(C=C1)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C14H9F4NO4S
